US07465731B2
To a solution of 5,6-dichloronicotinic acid (7.0 g, 35 mmol) in DMF were added iodoethane (6.0 g, 38.5 mmol) and K2CO3 (5.8 g, 42 mmol) at ambient temperature and the mixture was stirred at 45° C. for 5 hrs. To the reaction mixture were added (3R)-1-benzyl-3-piperidinamine dihydrochloride (10.1 g, 38.5 mmol) and K2CO3 (16.9 g, 122 mmol) and the reaction mixture was stirred at 90° C. for 18 hrs. The reaction mixture was evaporated in vacuo and the residue was partitioned between water and EtOAc. The organic layer was separated, washed water and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography (EtOAc-hexane/1-4˜1-3) to give ethyl 6-{[(3R)-1-benzyl-3-piperidinyl]amino}-5-chloronicotinate (6.75 g, 52%) as a powder.

reactant | 5,6-dichloronicotinic acid | 35 mmol, 7.0 g | ClC=1C(=NC=C(C(=O)O)C1)Cl | C6H3Cl2NO2
reactant | iodoethane | 38.5 mmol, 6.0 g | ICC | C2H5I
reactant | K2CO3 | 42 mmol, 5.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | (3R)-1-benzyl-3-piperidinamine dihydrochloride | 38.5 mmol, 10.1 g | Cl.Cl.C(C1=CC=CC=C1)N1C[C@@H](CCC1)N
reactant | K2CO3 | 122 mmol, 16.9 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | ethyl 6-{[(3R)-1-benzyl-3-piperidinyl]amino}-5-chloronicotinate | 6.75 g, 52% | C(C1=CC=CC=C1)N1C[C@@H](CCC1)NC1=NC=C(C(=O)OCC)C=C1Cl | C20H24ClN3O2
